US05705515
To a 0° C. suspension of 5.00 g (30.8 mmol) 1-phenylimidazolidin-2-one in 50 mL of dimethylformamide was added 1.48 g (37.0 mmol, 1.2 equiv) of sodium hydride (60% oil dispersion). After 45 minutes, 6.7 mL (8.88 g, 37.0 mmol, 1.2 equiv) of octyl iodide was added. The mixture was allowed to stir overnight with gradual warming to room temperature. TLC analysis indicated the presence of starting material. An additional 830 mg portion of sodium hydride was added. After 5 hours, TLC analysis again indicated the presence of starting material, so 0.5 g more sodium hydride and 6 mL of octyl iodide were added. After 2 hours, the reaction was complete as judged by TLC analysis. The mixture was concentrated in vacuo, and partitioned between 200 mL of ethyl acetate and 50 mL of water. The organic phase was washed sequentially with three 50-mL portions of water and one portion of brine, dried over magnesium sulfate, and concentrated in vacuo. Purification by flash chromatography (silica gel, 10-25% ethyl acetate/hexane) provided 3.97 g (47%) of 3-octyl-1-phenylimidazolidin-2-one. A 3.93 g portion of this material was added over 45 min to 6 mL of chlorosulfonic acid in a salt/ice bath. Stirring was continued at -5° C. until gas evolution ceased (~3 hours). The reaction mixture was poured into 50 mL of ice and extracted with 3 150-mL portions of ethyl acetate. The combined organic phases were dried over magnesium sulfate and concentrated in vacuo. Purification by flash chromatography (25% ethyl acetate/hexane) provided 2.49 g of the title compound: 1H NMR (500 MHz, CDCl3) δ7.94 (d, 2H), 7.76 (d, 2H), 3.87 (dd, 2H), 3.55 (dd, 2H), 3.31 (t, 2H), 1.56 (m, 2H), 1.36-1.21 (m, 10H), 0.85 (m, 3H).

reactant | 1-phenylimidazolidin-2-one | 30.8 mmol, 5.00 g | C1(=CC=CC=C1)N1C(NCC1)=O | C9H10N2O
reactant | sodium hydride | 37.0 mmol, 1.48 g, 1.2 equiv | [H-].[Na+]
reactant | octyl iodide | 37.0 mmol, 6.7 mL, 8.88 g, 1.2 equiv | C(CCCCCCC)I | C8H17I
reactant | octyl iodide | 6 mL | C(CCCCCCC)I | C8H17I
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 3-octyl-1-phenylimidazolidin-2-one | 3.97 g, 47% | C(CCCCCCC)N1C(N(CC1)C1=CC=CC=C1)=O | C17H26N2O
